US05085801
Preparation of tetracosa-11,13-diyne or C24 monomer (formula I: n=n'=9)
Dodec-1-yne (EGA 24,440-6) (1.2 g) was heated in the presence of copper acetate (4 g) in a mixture of pyridine (100 cm3) , methanol 300 cm3) and ether (400 cm3), for 72 h, at 30°-32° C., in the presence of a gentle stream of pure oxygen. The ether and methanol were then evaporated off under reduced pressure after the excess dissolved oxygen had been removed by the passage of argon, in the presence of 1 g of CuCl. The solution was taken up by fresh anhydrous pyridine (400 cm3) for 72 h at 47° C. (reflux). Part of the pyridine was then evaporated off under reduced pressure, after which the mixture was acidified with a 10% aqueous solution of HCl. After extraction with ether and evaporation, an oily liquid was obtained which crystallized in the cold. The oil was chromatographed in CHCl3 on SiO2 to give an oil which was transparent at room temperature (0.877 g, y=73%). The product was checked by NMR, gas chromatography (purity 97%) and mass spectroscopy (peak 330).

reactant | Dodec-1-yne | 1.2 g | C#CCCCCCCCCCC | C12H22
reactant | methanol | 300 cm3 | CO | CH4O
reactant | ether | 400 cm3 | CCOCC | C4H10O
reactant | oxygen | O=O | O2
solvent | pyridine | 100 cm3 | N1=CC=CC=C1 | C5H5N
catalyst | copper acetate | 4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | tetracosa-11,13-diyne | CCCCCCCCCCC#CC#CCCCCCCCCCC | C24H42
